US08629157B2
Step 3: Synthesis of 5-chloro-1-(tetrahydro-pyran-4-ylmethyl)-1H-benzimidazol-2-ylamine
4-Chloro-N1-(tetrahydro-pyran-4-ylmethyl)-benzene-1,2-diamine (1.026 g; 4.261 mmol) is dissolved in ethanol (65 mL) and cyanogen bromide (0.903 g; 8.522 mmol) is added. The reaction is stirred at room temperature overnight. After this time the mixture is concentrated in vacuo to afford title compound as a tan solid which was used without further purification. ESI m/z 266 [M+H]+/264 [M−H]−

reactant | 4-Chloro-N1-(tetrahydro-pyran-4-ylmethyl)-benzene-1,2-diamine | 4.261 mmol, 1.026 g | ClC=1C=C(C(=CC1)NCC1CCOCC1)N | C12H17ClN2O
reactant | cyanogen bromide | 8.522 mmol, 0.903 g | N#CBr | CBrN
solvent | ethanol | 65 mL | C(C)O | C2H6O
product | 5-chloro-1-(tetrahydro-pyran-4-ylmethyl)-1H-benzimidazol-2-ylamine | ClC1=CC2=C(N(C(=N2)N)CC2CCOCC2)C=C1 | C13H16ClN3O
